US06610685B2
b) Carbonic acid 3-iodo-4-methoxycarbonylamino-phenyl ester methyl ester
A mixture of carbonic acid 4-methoxycarbonylamino-phenyl ester methyl ester (20.0 g, 88.8 mmol) and N-iodosuccinimide (23.8 g, 105.78 mmol) in acetonitrile (330 mL) was cooled to 0° C. (ice-bath). Trifluoromethanesulfonic acid (1.6 mL, 18.2 mmol) was added dropwise. The cooling bath was removed and the reaction stirred 72 h at room temperature. TLC showed the reaction was complete. The mixture was poured into 1M pH7 phosphate buffer, and washed with ethyl acetate. The phases were separated, the aqueous phase was extracted with ethyl acetate and the combined organic phases washed with 10% sodium thiosulfate solution, brine, dried over sodium sulfate and evaporated. The residue was purified by column chromatography on silica gel (500 g, 3:2 hexane/ethyl acetate eluant) to afford the product as an off-white solid (28.7 g, 92%), which was used without further purification. m.p. 106° C.

reactant | carbonic acid 4-methoxycarbonylamino-phenyl ester methyl ester | 88.8 mmol, 20.0 g | COC(OC1=CC=C(C=C1)NC(=O)OC)=O | C10H11NO5
reactant | N-iodosuccinimide | 105.78 mmol, 23.8 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | Trifluoromethanesulfonic acid | 18.2 mmol, 1.6 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | acetonitrile | 330 mL | C(C)#N | C2H3N
product | Carbonic acid 3-iodo-4-methoxycarbonylamino-phenyl ester methyl ester | 28.7 g, 92% | COC(OC1=CC(=C(C=C1)NC(=O)OC)I)=O | C10H10INO5
